US05849732
To a mixed solution comprising 1 g of 2-[3-((1S)-5-benzyloxycarbonylamino-1-methoxycarbonylpentyl)ureido]-4-methoxy-6-tert-butylphenol and 30 ml of methanol were added 0.5 ml of conc. hydrochloric acid and 200 mg of 10% palladium-carbon (Pd-C). The mixture was subjected to catalytic reduction at normal temperature under normal pressure for one hour. After removing the catalyst, the filtrate was condensed. Hexane was added to the residue to give 685 mg of 2-[3-((1S)-5-amino-1-methoxycarbonylpentyl)ureido]-4-methoxy-6-tert-butylphenol hydrochloride (yield: 85%, state: yellow powder, IR: 3300 (br), 1725, 1650, 1560 cm-1).

reactant | 2-[3-((1S)-5-benzyloxycarbonylamino-1-methoxycarbonylpentyl)ureido]-4-methoxy-6-tert-butylphenol | 1 g | C(C1=CC=CC=C1)OC(=O)NCCCC[C@@H](C(=O)OC)NC(NC1=C(C(=CC(=C1)OC)C(C)(C)C)O)=O | C27H37N3O7
reactant | methanol | 30 ml | CO | CH4O
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
catalyst | palladium-carbon | 200 mg | [C].[Pd]
solvent | Hexane | CCCCCC | C6H14
product | 2-[3-((1S)-5-amino-1-methoxycarbonylpentyl)ureido]-4-methoxy-6-tert-butylphenol hydrochloride | 685 mg, yield: 85% | Cl.NCCCC[C@@H](C(=O)OC)NC(NC1=C(C(=CC(=C1)OC)C(C)(C)C)O)=O | InChI=1S/C19H31N3O5.ClH/c1-19(2,3)13-10-12(26-4)11-15(16(13)23)22-18(25)21-14(17(24)27-5)8-6-7-9-20;/h10-11,14,23H,6-9,20H2,1-5H3,(H2,21,22,25);1H/t14-;/m0./s1
